US07101911B2
A18. (4-Hydroxy-but-2-ynyl)toluene-4-sulfonate
At 10° C., a solution of triethylamine (17.5 ml, 128.0 mmol) in absolute dioxane (60 ml) is added dropwise to a solution of but-2-yne-1,4-diol (10 g, 116.1 mmol) and 4-toluenesulfonyl chloride (24.4 g, 128.0 mmol) in absolute dioxane (230 ml), and the mixture is stirred for 2 h. The mixture is then stirred at RT overnight. The reaction mixture is filtered off with suction through kieselguhr, and the filter cake is washed with ethyl acetate (20 ml). The organic phase is concentrated under reduced pressure. Further purification is carried out by chromatography [toluene/acetone (8.5:1.5)] on a silica gel column. This gives the title compound (7.5 g) as a light yellow oil. TLC, silica gel (glass plates), [toluene/acetone (8:2)], Rf=0.49.

reactant | triethylamine | 128.0 mmol, 17.5 ml | C(C)N(CC)CC | C6H15N
reactant | but-2-yne-1,4-diol | 116.1 mmol, 10 g | C(C#CCO)O | C4H6O2
reactant | 4-toluenesulfonyl chloride | 128.0 mmol, 24.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 230 ml | O1CCOCC1 | C4H8O2
product | (4-Hydroxy-but-2-ynyl)toluene-4-sulfonate | 7.5 g | OCC#CCOS(=O)(=O)C1=CC=C(C=C1)C | C11H12O4S
